.SubCkt GCJ32QR72J103KXJ1 _net1 _net2
.param K01=1.0190e-08
.param M01=1.0000e+10
.param L02=3.7745e-10
.param M03=7.1914e-02
.param K04=1.1215e-06
.param M04=1.6320e+03
.param K05=1.3453e-06
.param M05=2.6995e+02
.param K06=1.1736e-06
.param M06=5.7837e+01
.param K07=1.1128e-06
.param M07=1.1067e+01
.param K08=8.3759e-07
.param M08=2.2942e+00
.param K09=6.5522e-07
.param M09=3.4666e-01
.param K10=4.1225e-07
.param M10=1.0980e-01
.param L11=3.0912e-11
.param M11=2.8848e-01
.param L12=7.1429e-11
.param M12=2.2572e-01
.param K13=3.7530e-08
.param L13=1.9435e-11
.param M13=7.8744e-02
.param K14=9.0883e-09
.param L14=2.4194e-11
.param M14=1.0078e-01
.param K15=1.2324e-11
.param L15=1.4856e-10
.param M15=9.4086e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32DR72E104KXJ1 _net1 _net2
.param K01=1.0430e-07
.param M01=1.0000e+09
.param L02=3.4811e-10
.param M03=2.1039e-02
.param K04=9.8150e-06
.param M04=1.8571e+02
.param K05=1.1606e-05
.param M05=3.5169e+01
.param K06=9.5561e-06
.param M06=7.8974e+00
.param K07=8.7075e-06
.param M07=1.4769e+00
.param K08=7.9584e-06
.param M08=3.0685e-01
.param K09=7.5810e-06
.param M09=3.9198e-02
.param L10=2.7797e-11
.param M10=8.8006e-02
.param L11=1.2731e-10
.param M11=6.1972e-02
.param K12=4.5229e-07
.param L12=3.3048e-11
.param M12=3.8554e-02
.param K13=8.8006e-08
.param L13=5.4879e-11
.param M13=4.0604e-02
.param K14=1.0401e-11
.param L14=2.0914e-10
.param M14=1.6836e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GCJ32DR7LV104KW01 _net1 _net2
.param K01=1.0430e-07
.param M01=1.0000e+09
.param L02=3.4811e-10
.param M03=2.1039e-02
.param K04=9.8150e-06
.param M04=1.8571e+02
.param K05=1.1606e-05
.param M05=3.5169e+01
.param K06=9.5561e-06
.param M06=7.8974e+00
.param K07=8.7075e-06
.param M07=1.4769e+00
.param K08=7.9584e-06
.param M08=3.0685e-01
.param K09=7.5810e-06
.param M09=3.9198e-02
.param L10=2.7797e-11
.param M10=8.8006e-02
.param L11=1.2731e-10
.param M11=6.1972e-02
.param K12=4.5229e-07
.param L12=3.3048e-11
.param M12=3.8554e-02
.param K13=8.8006e-08
.param L13=5.4879e-11
.param M13=4.0604e-02
.param K14=1.0401e-11
.param L14=2.0914e-10
.param M14=1.6836e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GCJ32DR72J153KXJ1 _net1 _net2
.param K01=1.4990e-08
.param M01=6.6667e+09
.param L02=3.2697e-10
.param M03=4.8550e-02
.param K04=1.5524e-06
.param M04=1.1804e+03
.param K05=1.8554e-06
.param M05=2.1483e+02
.param K06=1.5908e-06
.param M06=4.7116e+01
.param K07=1.5148e-06
.param M07=8.9653e+00
.param K08=1.2518e-06
.param M08=1.7867e+00
.param K09=8.8473e-07
.param M09=3.9310e-01
.param K10=6.2581e-07
.param M10=5.5364e-02
.param L11=4.8265e-11
.param M11=2.6881e-01
.param L12=8.1252e-11
.param M12=2.0001e-01
.param K13=5.1720e-08
.param L13=3.1424e-11
.param M13=1.0373e-01
.param K14=1.2886e-08
.param L14=4.1735e-11
.param M14=1.2079e-01
.param K15=9.9157e-12
.param L15=2.5282e-10
.param M15=2.1503e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32DR73A153KXJ1 _net1 _net2
.param K01=1.5187e-08
.param M01=6.6667e+09
.param L02=3.2242e-10
.param M03=4.8550e-02
.param K04=1.7512e-06
.param M04=1.0931e+03
.param K05=2.0648e-06
.param M05=1.9057e+02
.param K06=1.7687e-06
.param M06=4.2117e+01
.param K07=1.6659e-06
.param M07=8.1279e+00
.param K08=1.3834e-06
.param M08=1.6526e+00
.param K09=9.4654e-07
.param M09=3.5618e-01
.param K10=6.1976e-07
.param M10=5.2765e-02
.param L11=4.8626e-11
.param M11=2.7300e-01
.param L12=8.1010e-11
.param M12=2.0022e-01
.param K13=5.2303e-08
.param L13=3.1049e-11
.param M13=1.0301e-01
.param K14=1.2932e-08
.param L14=4.1558e-11
.param M14=1.2057e-01
.param K15=9.8887e-12
.param L15=2.5366e-10
.param M15=2.1729e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32QR72E154KXJ1 _net1 _net2
.param K01=1.5795e-07
.param M01=6.6667e+08
.param L02=3.5028e-10
.param M03=1.7430e-02
.param K04=1.0984e-05
.param M04=1.0830e+02
.param K05=1.4690e-05
.param M05=1.8143e+01
.param K06=1.1410e-05
.param M06=4.0599e+00
.param K07=1.0265e-05
.param M07=7.6395e-01
.param K08=1.0438e-05
.param M08=1.0751e-01
.param K09=9.1665e-06
.param M09=1.5660e-02
.param L10=4.8079e-11
.param M10=9.0342e-02
.param L11=1.1983e-10
.param M11=5.4693e-02
.param K12=6.8891e-07
.param L12=2.7410e-11
.param M12=2.6819e-02
.param K13=1.1982e-07
.param L13=5.5797e-11
.param M13=3.6653e-02
.param K14=2.1172e-11
.param L14=5.4396e-11
.param M14=1.5399e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GCJ32DR72J223KXJ1 _net1 _net2
.param K01=2.2398e-08
.param M01=4.5455e+09
.param L02=3.4534e-10
.param M03=4.0774e-02
.param K04=2.4982e-06
.param M04=7.9396e+02
.param K05=2.9424e-06
.param M05=1.5223e+02
.param K06=2.5491e-06
.param M06=3.4060e+01
.param K07=2.4009e-06
.param M07=6.9462e+00
.param K08=2.0318e-06
.param M08=1.4410e+00
.param K09=1.6989e-06
.param M09=3.1760e-01
.param K10=1.1543e-06
.param M10=6.0706e-02
.param L11=3.8200e-11
.param M11=2.2038e-01
.param L12=7.2433e-11
.param M12=1.9457e-01
.param K13=7.8175e-08
.param L13=2.4453e-11
.param M13=7.7799e-02
.param K14=1.5366e-08
.param L14=4.1991e-11
.param M14=1.0561e-01
.param K15=1.4995e-11
.param L15=1.1311e-10
.param M15=7.1085e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32DR73A223KXJ1 _net1 _net2
.param K01=2.2309e-08
.param M01=4.5455e+09
.param L02=3.9125e-10
.param M03=3.2621e-02
.param K04=2.3120e-06
.param M04=7.9818e+02
.param K05=2.4881e-06
.param M05=1.8569e+02
.param K06=2.1619e-06
.param M06=3.9914e+01
.param K07=2.1638e-06
.param M07=7.9066e+00
.param K08=1.7787e-06
.param M08=1.6410e+00
.param K09=1.2717e-06
.param M09=3.6449e-01
.param K10=1.3176e-06
.param M10=5.5522e-02
.param L11=1.2158e-10
.param M11=1.9604e-01
.param L12=2.3429e-11
.param M12=1.2396e-01
.param K13=4.9585e-08
.param L13=6.6065e-11
.param M13=1.7320e-01
.param K14=2.0529e-08
.param L14=5.6909e-11
.param M14=1.4601e-01
.param K15=2.6007e-11
.param L15=7.3312e-11
.param M15=3.2691e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32DR72E224KXJ1 _net1 _net2
.param K01=2.2790e-07
.param M01=4.5455e+08
.param L02=3.6429e-10
.param M03=1.2490e-02
.param K04=2.1658e-05
.param M04=5.4690e+01
.param K05=2.4000e-05
.param M05=1.2482e+01
.param K06=1.7761e-05
.param M06=3.4741e+00
.param K07=1.7566e-05
.param M07=5.6598e-01
.param K08=1.6730e-05
.param M08=8.5280e-02
.param K09=2.1426e-05
.param M09=1.1668e-02
.param L10=3.4797e-11
.param M10=1.5807e-01
.param L11=1.4828e-10
.param M11=6.8165e-02
.param K12=5.6836e-07
.param L12=6.5777e-11
.param M12=5.0233e-02
.param K13=2.8948e-07
.param L13=4.7476e-11
.param M13=4.4518e-02
.param K14=2.3066e-11
.param L14=7.5734e-11
.param M14=4.3749e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GCJ32DR72J333KXJ1 _net1 _net2
.param K01=3.3962e-08
.param M01=3.0303e+09
.param L02=4.0194e-10
.param M03=3.1014e-02
.param K04=4.3186e-06
.param M04=4.9587e+02
.param K05=4.5369e-06
.param M05=1.2641e+02
.param K06=4.1040e-06
.param M06=2.7426e+01
.param K07=3.8777e-06
.param M07=5.9487e+00
.param K08=3.4096e-06
.param M08=1.2656e+00
.param K09=3.0036e-06
.param M09=3.0739e-01
.param K10=1.8883e-06
.param M10=5.7177e-02
.param L11=1.1139e-11
.param M11=1.3341e-01
.param L12=7.8435e-11
.param M12=1.3134e-01
.param K13=1.0240e-07
.param L13=4.4533e-11
.param M13=1.0130e-01
.param K14=2.2845e-08
.param L14=6.8244e-11
.param M14=1.1841e-01
.param K15=1.4523e-11
.param L15=1.6336e-10
.param M15=1.2220e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32DR72J473KXJ1 _net1 _net2
.param K01=4.7496e-08
.param M01=2.1277e+09
.param L02=3.2523e-10
.param M03=2.4462e-02
.param K04=5.9522e-06
.param M04=3.1048e+02
.param K05=5.0091e-06
.param M05=1.3166e+02
.param K06=4.5962e-06
.param M06=2.6709e+01
.param K07=4.5357e-06
.param M07=5.9469e+00
.param K08=3.9875e-06
.param M08=1.2944e+00
.param K09=3.4869e-06
.param M09=3.1336e-01
.param K10=2.2936e-06
.param M10=6.0768e-02
.param L11=9.7712e-11
.param M11=1.2298e-01
.param L12=3.2330e-11
.param M12=7.3643e-02
.param K13=1.3228e-07
.param L13=5.9789e-11
.param M13=1.1439e-01
.param K14=3.3479e-08
.param L14=8.5687e-11
.param M14=1.0911e-01
.param K15=2.6241e-11
.param L15=7.1601e-11
.param M15=3.1284e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32QR72J682KXJ1 _net1 _net2
.param K01=7.0292e-09
.param M01=1.0000e+10
.param L02=3.2645e-10
.param M03=8.5933e-02
.param K04=6.3623e-07
.param M04=2.6281e+03
.param K05=7.9545e-07
.param M05=3.9942e+02
.param K06=7.0007e-07
.param M06=8.1405e+01
.param K07=6.8188e-07
.param M07=1.4041e+01
.param K08=4.7574e-07
.param M08=2.8766e+00
.param K09=3.5869e-07
.param M09=5.5907e-01
.param K10=2.4537e-07
.param M10=9.8035e-02
.param L11=4.6706e-11
.param M11=4.5560e-01
.param L12=3.5617e-11
.param M12=1.8591e-01
.param K13=4.0570e-08
.param L13=8.3973e-12
.param M13=5.6621e-02
.param K14=8.5136e-09
.param L14=1.2239e-11
.param M14=9.7872e-02
.param K15=9.0505e-12
.param L15=2.6508e-10
.param M15=2.4035e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GCJ32QR72E683KXJ1 _net1 _net2
.param K01=6.8570e-08
.param M01=1.4706e+09
.param L02=3.7974e-10
.param M03=2.9648e-02
.param K04=6.5148e-06
.param M04=2.6967e+02
.param K05=8.0206e-06
.param M05=4.2326e+01
.param K06=6.6966e-06
.param M06=9.1540e+00
.param K07=6.1149e-06
.param M07=1.6377e+00
.param K08=5.0349e-06
.param M08=3.5107e-01
.param K09=3.4768e-06
.param M09=5.1983e-02
.param L10=2.3306e-11
.param M10=9.4019e-02
.param L11=8.8747e-11
.param M11=6.5314e-02
.param K12=3.3931e-07
.param L12=1.9430e-11
.param M12=2.7098e-02
.param K13=6.1948e-08
.param L13=2.9359e-11
.param M13=3.6655e-02
.param K14=1.2484e-11
.param L14=1.4451e-10
.param M14=8.3553e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GCJ32QR7LV683KW01 _net1 _net2
.param K01=6.8570e-08
.param M01=1.4706e+09
.param L02=3.7974e-10
.param M03=2.9648e-02
.param K04=6.5148e-06
.param M04=2.6967e+02
.param K05=8.0206e-06
.param M05=4.2326e+01
.param K06=6.6966e-06
.param M06=9.1540e+00
.param K07=6.1149e-06
.param M07=1.6377e+00
.param K08=5.0349e-06
.param M08=3.5107e-01
.param K09=3.4768e-06
.param M09=5.1983e-02
.param L10=2.3306e-11
.param M10=9.4019e-02
.param L11=8.8747e-11
.param M11=6.5314e-02
.param K12=3.3931e-07
.param L12=1.9430e-11
.param M12=2.7098e-02
.param K13=6.1948e-08
.param L13=2.9359e-11
.param M13=3.6655e-02
.param K14=1.2484e-11
.param L14=1.4451e-10
.param M14=8.3553e+00
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 
